US07629346B2
1,1-Dicyclopropyl-2-dibenzylamino-ethanol
To 20 ml of a 0.5 M (0.010 mol) solution of cyclopropylmagnesium chloride in tetrahydrofuran was a solution of 1.00 g (0.004 mol) dibenzylamino-acetic acid ethyl ester in 10 ml tetrahydrofuran and the mixture was allowed to stir at room temperature for 18 h. The reaction mixture was partitioned between 10% aqueous ammonium chloride and ethyl acetate the phases were separated and the organic phase was purified by chromatography on silca gel with heptane:ethyl acetate=9:1 to 4:1 to yield 0.29 g (26% Th) of the title compound as light yellow oil. MS (ISP) (M+H+)=322.3.

reactant | cyclopropylmagnesium chloride | C1(CC1)[Mg]Cl
reactant | dibenzylamino-acetic acid ethyl ester | 0.004 mol, 1.00 g | C(C)OC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C18H21NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1,1-Dicyclopropyl-2-dibenzylamino-ethanol | 0.29 g, 26% | C1(CC1)C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)(O)C1CC1 | C22H27NO
